US07279600B2
Trifluoro-methanesulfonic acid 2,3-dichloro-4-formyl-phenyl ester
The title compound was prepared by reacting 2,3-dichloro-4-hydroxybenzaldehyde (2.50 g, 13.2 mmol) with trifluoromethanesulfonic anhydride (2.88 ml, 4.80 g, 17.1 mmol) according to example 43 to yield 3.69 g (82%) of a brown crystal which was used directly in the next step without purification. An analytical sample was afforded as white solid by silica chromatography (5% ethyl acetate-hexane): mp 44-45° C.; 1H NMR (DMSO-d6): δ 7.88 (1H, d, J=8.74 Hz), 8.02 (1H, d, J=8.81 Hz), 10.28 (1H, s); MS (EI) m/z 322/324/326 (M)+.

reactant | 2,3-dichloro-4-hydroxybenzaldehyde | 13.2 mmol, 2.50 g | ClC1=C(C=O)C=CC(=C1Cl)O | C7H4Cl2O2
reactant | trifluoromethanesulfonic anhydride | 17.1 mmol, 2.88 ml, 4.80 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 2,3-dichloro-4-formyl-phenyl ester | ClC1=C(C=CC(=C1Cl)C=O)OS(=O)(=O)C(F)(F)F | C8H3Cl2F3O4S
